US03950333
A solution of 1.58 molar n-butyl lithium in n-hexane (49 ml.) was added over 0.5 hour to a stirred solution of 5,6,7,8-tetrahydroimidazo[1,5-a]pyridine (8.9 g.) in dry ether at -60° under nitrogen. After 3 hours, gaseous formaldehyde generated by the thermal condensation of paraformaldehyde (6.9 g.) was passed into the red solution. The mixture was allowed to warm to room temperature overnight, acidified with hydrochloric acid and extracted with chloroform. The aqueous layer was basified with an excess of saturated sodium carbonate solution and extracted with chloroform. Concentration and recrystallisation of the residue from ethanol-ethyl acetate-petroleum ether afforded 3-hydroxymethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine (7.7 g.) m.p. 188°-199°.

reactant | n-butyl lithium | 1.58 molar | C(CCC)[Li]
reactant | 5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 8.9 g | C=1N=CN2C1CCCC2 | C7H10N2
reactant | formaldehyde | C=O | CH2O
reactant | paraformaldehyde | 6.9 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | 49 ml | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 3-hydroxymethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 7.7 g | OCC1=NC=C2N1CCCC2 | C8H12N2O
